US05811389
8.0 ml of hydrazine hydrate solution (1M in ethanol) were added at room temperature to a solution of 1.0 g (2.12 mmol) of [6-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-ylmethyl)-3,7-dimethoxy-10-methyl-phenothiazin-4-yl]-acetonitrile in 10 ml of dioxan. The reaction mixture was stirred at 80° for 3 hours, cooled, treated with 200 ml of 10% sodium carbonate solution and stirred well. The mixture was extracted three times with methylene chloride and the combined organic phases were dried over magnesium sulphate and concentrated. The residue was dried in a high vacuum and dissolved in 30 ml of dioxan, whereupon 30 ml of concentrated hydrochloric acid were added. The reaction mixture was heated to 100° in a bomb tube for 2 hours, cooled and evaporated to dryness, whereupon the residue was dried in a high vacuum and dissolved in 10 ml of dioxan/water (2:1). The solution was brought to pH 8 by the dropwise addition of 1N aqueous sodium hydroxide solution, treated with a solution of 600 mg (2.74 mmol) of di-tert.-butyldicarbonate in 5 ml of dioxan while cooling with ice, stirred at room temperature for 1 hour and then poured into ice-water. The mixture was acidified slightly with 0.5N hydrochloric acid and extracted three times with methylene chloride. The combined organic phases were washed with sodium chloride solution, dried over magnesium sulphate and concentrated. The residue was chromatographed on silica gel with methanol/chloroform (9:1), whereupon, after drying, 580 mg (59.5%) of (6-tert.-butoxycarbonylaminomethyl-3,7-dimethoxy-10-methyl-phenothiazin-4-yl)acetic acid were obtained as an amorphous solid.

reactant | hydrazine hydrate | 1M, 8.0 ml | O.NN
reactant | [6-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-ylmethyl)-3,7-dimethoxy-10-methyl-phenothiazin-4-yl]-acetonitrile | 2.12 mmol, 1.0 g | O=C1N(C(C2=CC=CC=C12)=O)CC1=C2SC=3C(=C(C=CC3N(C2=CC=C1OC)C)OC)CC#N | C26H21N3O4S
reactant | sodium carbonate | 200 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert.-butyldicarbonate | 2.74 mmol, 600 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 0.5N | Cl | ClH
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | (6-tert.-butoxycarbonylaminomethyl-3,7-dimethoxy-10-methyl-phenothiazin-4-yl)acetic acid | 580 mg, 59.5% | C(C)(C)(C)OC(=O)NCC1=C2SC=3C(=C(C=CC3N(C2=CC=C1OC)C)OC)CC(=O)O | C23H28N2O6S
